Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Minoxidil
 
Attending: ___
 
Chief Complaint:
 cough, chills, and wheezing x5 days
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 Mr ___ is a ___ yo man with DMI, ESRD status post 
renal/pancreatic transplant ___, pheochromocytoma status post 
right adrenalectomy in ___, who presents with cough and chills 
for five days. Denies sore throat. No muscle or joint pain. He 
reports a cough mildly productive of yellow sputum for the last 
two days. Denies recent sick contacts. Denies history of smoking 
or asthma. Denies recent travel history. Has been taking 
Robitussin for cough, but no inhalers at home.  

Of note patient was recently evaluated at ___ ___ for flu-like 
symptoms, with cough and fevers. He was treated with a five-day 
course of Tamiflu at that time. There was no flu swab taken, but 
patient reports that after starting Tamiflu his symptoms 
improved and he had been feeling back to baseline for about one 
week prior to this most recent illness.  

 
Past Medical History:
-pheochromocytoma ___ R adrenalectomy ___ (Dr ___  
-diabetes Mellitus, Type I - since age ___  
-ESRD ___ CRT ___ - post-op course complicated by delayed 
graft function and hydronephrosis ___ ureteral stent and 
percutaneous nephrostomy in ___. Now with renal insufficiency 
with baseline creatinine 2.5-3.0.  
-pancreas transplant ___, rejected ___  
-h/o partial SBO - treated conservatively  
-hypertension  
-coronary Artery Disease ___ stent of Ramus Intermedius in ___  

-paroxysmal Atrial Fibrillation  
-___ ventral hernia repair with mesh in ___  
-orthostatic hypotension  
-medial malleolar fracture ___ - treated with Keflex and 
Vicodin. Ortho evaluation ___ - no infection, no ulcer.  

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
VITALS: T 98.9, BP 147/74, HR 55, RR 20, satting 95% 2L  
GENERAL: healthy-appearing man in no acute distress, coughs 
intermittently during history, moving in bed and speaking 
comfortably in complete sentences; generally calm and 
cooperative  
LUNGS: diffuse expiratory wheezes predominantly in the upper 
lung fields that clear after coughing. I could not appreciate 
focal changes in breath sounds at the bases.  
HEART: RRR, normal S1/S2. ___ SEM (patient says is old).  
ABDOMEN: soft and non-tender; large midline surgical scar and 
LLQ scar. No tenderness over transplant in LLQ. Normal bowel 
sounds.  
EXTREMITIES: warm and well-perfused, non-edematous  
NEURO: AAOx3, moving all extremities  

 
Pertinent Results:
___ 
WBC-11.0#  Hgb-9.7* Hct-29.9*  Plt ___ PTT-29.2 ___
Glucose-85 UreaN-50* Creat-2.9* Na-137 K-4.7 Cl-106 HCO3-20* 
AnGap-16
-ART pO2-83* pCO2-29* pH-7.42 calTCO2-19* Base XS--3 

Influenza negative
Urine, Blood cultures negative

CXR: Normalization of previous cardiac enlargement and pulmonary 

congestion. No acute infiltrates but plate atelectasis on the 
left lung base in retrocardiac position. 
 
Brief Hospital Course:
1. Cough, wheezing, low grade temperature, leukocytosis
Influenza swab and cultures negative. Chest xray without 
evidence of pneumonia. Suspect viral upper respiratory infection 
with bronchospasm. Received one dose levofloxacin in ED. He was 
discharged on a course of levofloxacin and an albuterol inhaler. 


2. Hypertension 
Stable. Amlodipine and metoprolol were continued. Lasix was held 
given elevated creatinine (though not new) and patient did not 
appear volume overloaded.

3. Coronary Artery Disease
Stable. Aspirin was continued. 
  
4. Paroxysmal Atrial Fibrillation
Remained in normal sinus rhythm. Continued metoprolol, ASA.

5. Diabetes type I
Well-controlled with recent HgA1c 6.7. Continued home insulin 
regimen with humalog sliding scale coverage.

6. ESRD ___ CRT ___
Creatinine at baseline. No active concerns. Continued 
prednisone, Cellcept, Neoral, Bactrim, calcium, vitamin D  
 
Medications on Admission:
-Calcium + Vitamin D 600 mg (1,500)-200 unit bid  
-Neoral 100 mg bid  
-Pantoprazole 40 mg qday  
-Lantus 100 unit/mL Sub-Q 10 u qhs  
-Cinacalcet 30 mg qday  
-Trimethoprim-Sulfamethoxazole 80 mg-400 mg ___  
-Aspirin Low Dose 81 mg Tab qday  
-Metoclopramide 5 mg Tab 1 q6h prn  
-CellCept 1000 mg bid  
-Furosemide 20 mg prn (takes every other day)  
-Alendronate 70 mg qweek (takes on ___  
-Prednisone 5 mg qday  
-Metoprolol 25 mg bid  
-Norvasc 10 mg qday  

 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing.
Disp:*1 1* Refills:*0*
2. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO ___ ().  
3. Cyclosporine Modified 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours).  
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
7. Cinacalcet 30 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
9. Mycophenolate Mofetil 500 mg Tablet Sig: Two (2) Tablet PO 
BID (2 times a day).  
10. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
11. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
12. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
13. Levaquin 500 mg Tablet Sig: One (1) Tablet PO every other 
day for 5 doses.
Disp:*5 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Upper respiratory tract infection
Renal transplant, diabetes type 1, pheochromocytoma ___ 
adrenalectomy, hypertension, hyperlipidemia

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted with a respiratory illness, likely viral but 
pneumonia cannot be excluded. You were tested for flu. 

You were started on an antibiotic, levofloxacin. Please take all 
doses as prescribed.

If you develop fevers, chills, nausea/vomiting, or other 
concerns, please call your doctor and/or return to the hospital.
 
Followup Instructions:
___